US06451821B1
0.9 cm3 of tert-butyl isothiocyanate and then 0.82 cm3 of triethylamine are added to a suspension of 0.9 g of (2R)-2-amino-3-(3-thienyl)-1-propanol hydrochloride in 9 cm3 of absolute ethanol stirred and under an inert atmosphere. After stirring for 66 hours at room temperature, the reaction medium is evaporated under reduced pressure (2 kPa) at a temperature in the region of 40° C. The thick brown oil obtained is taken up in 6 cm3 of water and then extracted with twice 12 cm3 of ethyl acetate. The organic phase is filtered through Celite and washed with twice 4 cm3 of saturated aqueous sodium chloride solution, dried over magnesium sulfate and evaporated under reduced pressure (2 kPa) at a temperature in the region of 40° C. A brown oil is obtained, which crystallizes rapidly under cold conditions and which is dried in an oven under vacuum (10 Pa) at a temperature in the region of 48° C. to give 0.97 g of N-(tert-butyl)-N′-[(1R)-2-hydroxy-1-(3-thienylmethyl)ethyl]thiourea in the form of a beige-colored solid melting at 109° C. 1H NMR spectrum (400 MHz, (CD3)2SO-d6, δ in ppm): 1.43 (s: 9H); 2.84 (mt: 2H); 3.38 (mt: 2H); 4.42 (unres. mult.: 1H); 4.86 (broad t, J=4.5 Hz: 1H); 7.04 (broad d, J=5 Hz: 1H); from 7.10 to 7.20 (mt: 2H); 7.25 (broad s 1H); 7.46 (dd, J=5 and 3 Hz: 1H).

reactant | tert-butyl isothiocyanate | 0.9 cm3 | C(C)(C)(C)N=C=S | C5H9NS
reactant | triethylamine | 0.82 cm3 | C(C)N(CC)CC | C6H15N
reactant | (2R)-2-amino-3-(3-thienyl)-1-propanol hydrochloride | 0.9 g | Cl.N[C@@H](CO)CC1=CSC=C1
solvent | ethanol | 9 cm3 | C(C)O | C2H6O
solvent | water | 6 cm3 | O | H2O
product | N-(tert-butyl)-N′-[(1R)-2-hydroxy-1-(3-thienylmethyl)ethyl]thiourea | 0.97 g | C(C)(C)(C)NC(=S)N[C@@H](CO)CC1=CSC=C1 | C12H20N2OS2
